US05663053
1,4,5-TriphenylimidazoI-2-one was treated with 7-bromo-heptanonitrile and potassium carbonate in bumone to give after chromatographic work-up 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptanonitrile, m.p. 100°-101° C., Found: C, 79.7; H, 6.6; N, 9.8%; C28H27N3O requires: C, 79.9; H, 6.4; N, 10.0%; and 7-(1,4,5-triphenylimidazol-2-yloxy)heptanonitrile, m.p..93°-94° C., Found: C, 79.5; H, 6.6; N, 9.7%; C28H27N3O requires: C, 79.9; H, 6.4; N, 10.0%.

reactant | 1,4,5-TriphenylimidazoI-2-one | C1(=CC=CC=C1)N1C(NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H16N2O
reactant | 7-bromo-heptanonitrile | BrCCCCCCC#N | C7H12BrN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptanonitrile | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCC#N)=O | C28H27N3O
